US05219862
2-methyl-8beta-methylthiomethyl-6-n-propyl-ergoline
345 mg of 2-methyl-6-n-propyl-8beta-ergoline-carboxylic acid methyl ester (1.06 mmol) is dissolved in 10 ml of anhydrous dioxane and heated with 150 mg of lithium aluminum hydride for 90 minutes to 80° C. After the cooling, 0.15 ml of water, 0.15 ml of 15% sodium hydroxide solution and 0.45 ml of water are added in succession, the precipitate is filtered off and the filtrate is concentrated by evaporation, quantitative yield. The crude alcohol is dissolved in 5 ml of pyridine and stirred with 0.25 ml of methanesulfonyl chloride for one hour at room temperature. Ice is added, it is stirred for another 30 minutes, and it is made alkaline with ammonia. The mixture is extracted with dichloromethane, the organic phase is dried and concentrated by evaporation. The residue of 388 mg is dissolved in 5 ml of N,N-dimethylacetamide and 720 mg of sodium methyl mercaptide (10 mmol) is stirred for an hour at room temperature. Ice is added to the mixture and it is extracted with dichloromethane. The organic phases are dried and concentrated by evaporation. 175 mg is crystallized from methanol, yield 50% [α]D =-80° (0.5% in chloroform).

reactant | 2-methyl-6-n-propyl-8beta-ergoline-carboxylic acid methyl ester | 1.06 mmol, 345 mg | COC(=O)[C@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)C)CCC | C20H26N2O2
reactant | lithium aluminum hydride | 150 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 0.15 ml | [OH-].[Na+]
reactant | sodium methyl mercaptide | 10 mmol, 720 mg | C[S-].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.45 ml | O | H2O
solvent | water | 0.15 ml | O | H2O
product | 2-methyl-8beta-methylthiomethyl-6-n-propyl-ergoline | quantitative yield | CC1=C2C[C@H]3N(C[C@@H](C[C@@H]3C=3C=CC=C(N1)C32)CSC)CCC | C20H28N2S
